US04623657
(Z)-Spiro[benzofuran-2(3H),1'-cycloheptan]-3-one oxime
A mixture of 10.81 g of spiro[benzofuran-2(3H),1'-cycloheptane]-3-one, 100 ml of absolute ethanol, 34.75 g of hydroxylamine hydrochloride and 100 ml of pyridine was heated at reflux overnight under nitrogen and thereafter cooled to room temperature. The mixture was poured into 500 ml of 2N aqueous hydrochloric acid and extracted with hexane (2×200 ml). The combined hexane extracts were washed with 2N hydrochloric acid (100 ml), distilled water (100 ml) and saturated sodium chloride solution (100 ml). After the last wash, the oxime began to crystallize out of the hexane extracts; dichloromethane was added to redissolve any crystallized solid and the solution was dried overnight over anhydrous sodium sulfate. Filtration and concentration in vacuo afforded a gum which was triturated to solid with hexane. This material was filtered off and recrystallized from 60 ml of boiling hexane to afford 7.28 g of needles, m.p. 98.5°-103.5° C. Recrystallization twice more from 60 ml portions of hexane afforded 5.01 g of pure major (Z) isomer as needles, m.p. 104°-106.5° C.

reactant | spiro[benzofuran-2(3H),1'-cycloheptane]-3-one | 10.81 g | C12(CCCCCC1)OC1=C(C2=O)C=CC=C1 | C14H16O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 34.75 g | Cl.NO
reactant | hydrochloric acid | 2N, 500 ml | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | (Z)-Spiro[benzofuran-2(3H),1'-cycloheptan]-3-one oxime | 7.28 g | C1\2(CCCCCC1)OC1=C(/C2=N/O)C=CC=C1 | C14H17NO2
